US07763562B2
3-(1-Naphthyl)-1H-inden-7-ol
Under an argon atmosphere, to a solution of 12.3 g (34.9 mmol) of 4-bromo-1-(1-naphthyl)-2,3-dihydro-1H-inden-1-yl methyl ether in 200 ml of THF, 14.0 ml of 2.5 M nBuLi (34.9 mmol) in hexanes was added with vigorous stirring for 1 hour at −78° C. Then, 20.0 ml (16.3 g, 86.7 mmol) of triisopropylborate was added at this temperature. The reaction mixture was warmed to ambient temperature, and 2.08 ml (2.18 g, 36.3 mmol) of glacial acetic acid was added. This mixture was stirred for 5 min at room temperature, then cooled to 0° C., and a mixture of 7.30 ml of 16% H2O2 was added. The resulting mixture was slowly warmed to ambient temperature and additionally stirred at this temperature for 30 min. Then, 300 ml of water was added, and the crude product was extracted with 3×150 ml of CH2Cl2. The combined extract was dried over Na2SO4 and evaporated to dryness. The analytically pure product was isolated by flash chromatography on Silica Gel 60 (40-63 μm, d 35 mm, 300 mm, eluant: hexanes-CH2Cl2=3:1). Yield, 3.98 g (44%).

reactant | 4-bromo-1-(1-naphthyl)-2,3-dihydro-1H-inden-1-yl methyl ether | 34.9 mmol, 12.3 g | COC1(CCC2=C(C=CC=C12)Br)C1=CC=CC2=CC=CC=C12 | C20H17BrO
reactant | nBuLi | 34.9 mmol, 2.5 M, 14.0 ml | [Li]CCCC
reactant | triisopropylborate | 86.7 mmol, 20.0 ml, 16.3 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | acetic acid | 36.3 mmol, 2.08 ml, 2.18 g | C(C)(=O)O | C2H4O2
reactant | H2O2 | 7.30 ml | OO | H2O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 3-(1-Naphthyl)-1H-inden-7-ol | C1(=CC=CC2=CC=CC=C12)C1=CCC2=C(C=CC=C12)O | C19H14O
